US06720338B2
trans-2-(phenylsulfanyl)cyclohexanol
A room temperature solution of cyclohexene oxide (9.81 g, 100 mmol) and N,N-diisopropylethylamine (2.60 g, 20.0 mmol) in 1,2-dichloroethane (200 mL) was treated with thiophenol (11 g, 100 mmol), stirred for 16 hours, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 20% ethyl acetate/hexanes to provide the desired product.

reactant | cyclohexene oxide | 100 mmol, 9.81 g | C12C(CCCC1)O2 | C6H10O
reactant | N,N-diisopropylethylamine | 20.0 mmol, 2.60 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | thiophenol | 100 mmol, 11 g | C1(=CC=CC=C1)S | C6H6S
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | trans-2-(phenylsulfanyl)cyclohexanol | C1(=CC=CC=C1)S[C@H]1[C@@H](CCCC1)O | C12H16OS
